US07932262B2
To a solution of the TFA salt of 4-(8-(piperidin-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide in DCM was added isobutyraldehyde (2 eq) and a few drops of acetic acid. The mixture was stirred for 10 mins and to it was added sodiumtriacetoxyborohydride (1.5 eq) and the mixture was stirred for 1 h. The reductive amination went to completion, by LC/MS. The crude mixture was concentrated and purified on prep HPLC to give the product 4-(8-(1-isobutylpiperidine-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide in 80% yield. ES/MS m/z 456.2 (MH+).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(8-(piperidin-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide | N1CCC(CC1)OC=1C=CC=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N | C19H21N5O3S
reactant | isobutyraldehyde | 2 eq | C(C(C)C)=O | C4H8O
reactant | sodiumtriacetoxyborohydride | 1.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 4-(8-(1-isobutylpiperidine-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide | 80% yield | C(C(C)C)N1CCC(CC1)OC=1C=CC=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N | C23H29N5O3S
